US07371747B2
(1R,2R)-2-{[(Cyanomethyl)amino]carbonyl}cyclohexanecarboxylic acid (97 mg, 0.46 mmol) in a 25 mL round bottom flask was fitted with a rubber septum and the flask was flushed with nitrogen. After adding tetrahydrofuran (1 mL), the reaction mixture was cooled to −78° C. and 4-methylmorpholine (51 μL, 0.47 mmol) and isobutyl chloroformate (51 μL, 0.46 mmol) were added. After 5 min, the reaction mixture was warmed quickly to 0° C. for 30 minutes. After recooling to −78° C., sodium borohydride (45 mg, 1.2 mmol) and methanol (1 mL) were added. After 5 min., the reaction mixture was allowed to warm to ambient temperature over 2 h. After quenching with 1 mL saturated aqueous ammonium chloride, the reaction mixture was partitioned between saturated aqueous sodium chloride solution and ethyl acetate. The organic layer was separated, washed with saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate, and concentrated. Toluene (5 mL) was added and stirring was carried out overnight. The solution was decanted and the residue was dried to give (1R,2R)-N-(cyanomethyl)-2-(hydroxymethyl)cyclohexanecarboxamide as a colorless powder.

reactant | (1R,2R)-2-{[(Cyanomethyl)amino]carbonyl}cyclohexanecarboxylic acid | 0.46 mmol, 97 mg | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)C(=O)O | C10H14N2O3
reactant | 4-methylmorpholine | 0.47 mmol, 51 μL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.46 mmol, 51 μL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 1.2 mmol, 45 mg | [BH4-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | (1R,2R)-N-(cyanomethyl)-2-(hydroxymethyl)cyclohexanecarboxamide | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CO | C10H16N2O2
